US04493843
(RS)-2-(n-Tetradecyl)indoline-6-carboxylic acid (10.5 g) and sodium hydroxide (5.0 g) were refluxed together in a mixture of water (30 ml) and methanol (70 ml) for 1.5 hours, then methyl iodide (5 ml) was added. Water (30 ml) was added and the mixture was refluxed for 1 hour. The mixture was filtered, and the filtrate was diluted with water and acidified with acetic acid. The product was collected and recrystallised from a mixture of methanol and ethanol to give (RS)-1-methyl-2-(n-tetradecyl)indoline-6-carboxylic acid (7.0 g) in the form of off-white crystals, m.p. 115°-118° C.

reactant | (RS)-2-(n-Tetradecyl)indoline-6-carboxylic acid | 10.5 g | C(CCCCCCCCCCCCC)C1NC2=CC(=CC=C2C1)C(=O)O | C23H37NO2
reactant | sodium hydroxide | 5.0 g | [OH-].[Na+]
reactant | methyl iodide | 5 ml | CI | CH3I
solvent | water | 30 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
solvent | Water | 30 ml | O | H2O
product | (RS)-1-methyl-2-(n-tetradecyl)indoline-6-carboxylic acid | 7.0 g | CN1C(CC2=CC=C(C=C12)C(=O)O)CCCCCCCCCCCCCC | C24H39NO2
